US08314101B2
Step 1: Synthesis of 3-(4-bromophenyl)pyridine
In a 100 mL three-necked flask were placed 2.4 g (20 mmol) of 3-pyridineboronic acid, 5.6 g (19 mmol) of para-bromoiodobenzene, and 4.5 g (42 mmol) of sodium carbonate. The atmosphere in the flask was replaced with nitrogen, and to the flask were added 15 mL of water, 25 mL of DME, and 10 mL of ethanol. The mixture was degassed by being stirred under reduced pressure, to which 0.22 g (0.19 mmol) of tetrakis(triphenylphosphine)palladium(0) was added. The mixture was stirred under nitrogen stream at 80° C. for 12 hours. After a predetermined time, water was added to the mixture, and an organic substance was extracted with chloroform from the aqueous layer. The obtained extract was washed with a saturated aqueous sodium chloride solution together with the organic layer and then dried over magnesium sulfate. The mixture was subjected to suction filtration through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and the filtrate was condensed to obtain an oily substance. The obtained substance was purified by silica gel column chromatography (hexane:ethyl acetate=3:1); thus, 1.8 g of the target yellow oily substance was obtained with a yield of 38%.

reactant | 3-pyridineboronic acid | 20 mmol, 2.4 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | para-bromoiodobenzene | 19 mmol, 5.6 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | sodium carbonate | 42 mmol, 4.5 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.19 mmol, 0.22 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | DME | 25 mL | COCCOC | C4H10O2
solvent | water | 15 mL | O | H2O
product | 3-(4-bromophenyl)pyridine | BrC1=CC=C(C=C1)C=1C=NC=CC1 | C11H8BrN
